US09284271B2
N-(2-(5-Methoxy-1H-indol-3-yl)ethyl)biphenyl-4-carboxamide was obtained following Method C starting from 2-(5-methoxy-1H-indol-3-yl)ethanamine (0.100 g, 0.515 mmol), biphenyl-4-carbonyl chloride (0.120 g; 0.541 mmol), and triethylamine (0.087 mL; 0.616 mmol) in dichloromethane (5 mL). Flash chromatography on silica gel (eluent with 10% ethyl acetate in dichloromethane) furnished 0.122 g (64%) of N-(2-(5-Methoxy-1H-indol-3-yl)ethyl)biphenyl-4-carboxamide as a white solid.

reactant | 2-(5-methoxy-1H-indol-3-yl)ethanamine | 0.515 mmol, 0.100 g | COC=1C=C2C(=CNC2=CC1)CCN | C11H14N2O
reactant | biphenyl-4-carbonyl chloride | 0.541 mmol, 0.120 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | triethylamine | 0.616 mmol, 0.087 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-(5-Methoxy-1H-indol-3-yl)ethyl)biphenyl-4-carboxamide | 0.122 g, 64% | COC=1C=C2C(=CNC2=CC1)CCNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C24H22N2O2
